US04242256
A solution of crude 5-amino-6-phenylhexanoic acid hydrochloride (0.235 g, 0.97 mmoles) prepared as described in Example 1 and tetramethylguanidine (0.438 g, 2.90 mmoles) in dimethylformamide (6.60 mls) is treated with t-butoxycarbonylazide (0.276 g, 1.93 mmoles) in dimethylformamide (3.00 mls) and the solution stirred for 48 hours at room temperature. The dimethylformamide is evaporated and the product partitioned between ethyl acetate and 1 M citric acid. Extraction of the organic phase with 3% aqueous ammonia followed by acidification and extraction affords 5-t-butoxycarbonylamino-6-phenylhexanoic acid, which is further purified by preparative t.l.c. using benzene-dioxane-acetic acid (95:25:4 v/v/v) for development. Elution with ethyl acetate affords the pure acid as a white solid (0.180 g, 53% based on 5-phenyl-4-phthalimidopentanoic acid). Crystallisation from ethyl acetate/petrol (60°-80° C.) gives the acid in the form of a white powder, m.p. 94.5°-96.5° C.; τ(CDCl3): -0.67 (1H, s,D2O-exchangeable), 2.82 (5H,s), 5.58 br (1H, D2O-exchangeable) 6.28 br (1H), 7.28 (2H,d, J=6.5Hz), 7.68 (2H multiplet), 8.05-8.90 (10H, complex); νmax (CHCl3): 2600 (very broad) 1710, 1500 cm-1.

reactant | 5-amino-6-phenylhexanoic acid hydrochloride | 0.97 mmoles, 0.235 g | Cl.NC(CCCC(=O)O)CC1=CC=CC=C1
reactant | tetramethylguanidine | 2.90 mmoles, 0.438 g | CN(C(N(C)C)=N)C | C5H13N3
reactant | t-butoxycarbonylazide | 1.93 mmoles, 0.276 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | dimethylformamide | 6.60 mls | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3.00 mls | CN(C=O)C | C3H7NO
product | 5-t-butoxycarbonylamino-6-phenylhexanoic acid | C(C)(C)(C)OC(=O)NC(CCCC(=O)O)CC1=CC=CC=C1 | C17H25NO4
